US07572794B2
2-({2-[(Morpholine-4-carbonyl)-amino]-pyridin-4-ylmethyl}-amino)-benzoic acid methyl ester was prepared from 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-benzoic acid methyl ester and morpholine-4-carboxylic acid amide in analogy to the procedures detailed in WO2004/013102, particularly Example 6A, supra; 1H-NMR (300 MHz, d6-DMSO) 9.19 (1H, s), 8.15-8.19 (2H, m), 7.79-7.84 (2H, m), 7.29-7.34 (1H, m), 6.92 (1H, dd), 6.56-6.62 (2H, m), 4.50 (2H, d), 3.83 (3H, s), 3.57-3.60 (4H, m), 3.42-3.46 (4H, m).

reactant | 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-benzoic acid methyl ester | COC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)Br)=O | C14H13BrN2O2
reactant | morpholine-4-carboxylic acid amide | N1(CCOCC1)C(=O)N | C5H10N2O2
product | 2-({2-[(Morpholine-4-carbonyl)-amino]-pyridin-4-ylmethyl}-amino)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N1CCOCC1)=O | C19H22N4O4
